US04288242
To a mixture containing alpha-chloro-N-(2,6-dimethoxyphenyl)acetamide (11.0 g; 0.048 mole), 10 ml. of (chloromethyl)methyl ether and 3.0 g. of benzyltriethylammonium bromide in 100 ml. of methylene chloride was added 50 ml. of a 50% sodium hydroxide solution. The temperature of the reaction mixture increased to 40° C. The reaction mixture was stirred for 1 hour after which time the layers were separated, and the organic methylene chloride layer was concentrated in vacuo yielding a white solid. The white solid was recrystallized from isopropanol to yield alpha-chloro-N-(methoxymethyl)-N-(2,6-dimethoxyphenyl)acetamide (11.8 g; 90% yield) as a white solid having a melting point of 104°-106° C. and the following analysis:

reactant | alpha-chloro-N-(2,6-dimethoxyphenyl)acetamide | 0.048 mole, 11.0 g | ClCC(=O)NC1=C(C=CC=C1OC)OC | C10H12ClNO3
reactant | (chloromethyl)methyl ether | ClCOC | C2H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | benzyltriethylammonium bromide | [Br-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | alpha-chloro-N-(methoxymethyl)-N-(2,6-dimethoxyphenyl)acetamide | 11.8 g, 90% yield | ClCC(=O)N(C1=C(C=CC=C1OC)OC)COC | C12H16ClNO4
